US09126993B2
To a mixture of 3-aminophenol (1.50 g, 13.8 mmol), isopropanol (3.3 g, 55 mmol), and triphenylphosphine (14.4 g, 54.9 mmol) in THF (15 mL), was added dropwise diethylazodicarboxylate (9.60 g, 55.0 mmol) over a 30 min period. The mixture was stirred at room temperature for 3 h and concentrated. The residue was diluted with water, acidified with aqueous 2N HCl and extracted with ether. The aqueous phase was basified with aqueous 2N NaOH and extracted with EtOAc. The combined organic layers were dried (Na2SO4) and concentrated. The resulting crude product was purified by silica gel column chromatograph (petroleum ether/EtOAc 10:1 to 5:1) to afford 3-isopropoxybenzenamine as yellow oil (1.3 g, 64%).

reactant | 3-aminophenol | 13.8 mmol, 1.50 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | isopropanol | 55 mmol, 3.3 g | C(C)(C)O | C3H8O
reactant | triphenylphosphine | 54.9 mmol, 14.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 55.0 mmol, 9.60 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 3-isopropoxybenzenamine | 1.3 g, 64% | C(C)(C)OC=1C=C(C=CC1)N | C9H13NO
